US07091215B2
3-((Cyclopropylmethyl)[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]aminomethyl)-2-pyridinol
After dissolving N-cyclopropylmethyl-N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]-N-[(2-methoxy-3-pyridyl)methyl]amine (63 mg) in ethanol (1 mL), a 4 N hydrochloric acid/ethyl acetate solution (1 mL) was added at room temperature and the mixture was heated to reflux for 3 hours. Saturated aqueous sodium hydrogencarbonate was added to the reaction mixture for neutralization while cooling on ice, and extraction was performed with ethyl acetate. The obtained organic layer was washed with water and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate) to obtain the title compound (49 mg) as white crystals.

reactant | N-cyclopropylmethyl-N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]-N-[(2-methoxy-3-pyridyl)methyl]amine | 63 mg | C1(CC1)CN(CC=1C(=NC=CC1)OC)C=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2C)C)OC)SC | C28H32N4O2S
reactant | hydrochloric acid ethyl acetate | 4 N, 1 mL | Cl.C(C)(=O)OCC
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-((Cyclopropylmethyl)[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]aminomethyl)-2-pyridinol | 49 mg | C1(CC1)CC(C=1C(=NC=CC1)O)NC=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2C)C)OC)SC | C27H30N4O2S
